US06555577B1
A mixture of (E)-3-(3-Hydroxy-propenyl)-phenol (0.5 g, 3.33 mmol), methyl 4-(bromomethyl)benzoate (763 mg, 3.33 mmol) and potassium carbonate (1.8 g, 13.3 mmol) in acetone (40 ml) was stirred at roomtemperature over night. The reaction mixtylre was added water (30 ml) and acidified with 1N HCl and extracted with ethyl acetate (90 ml). The organic phase was washed with water, brine and dried with sodium sulphate and evaporated and dried in vacuo yielding 954 mg (96%) (E)-4-[3-(3-Hydroxy-propenyl)-phenoxymethyl]-benzoic acid methyl ester.

reactant | (E)-3-(3-Hydroxy-propenyl)-phenol | 3.33 mmol, 0.5 g | OC/C=C/C=1C=C(C=CC1)O | C9H10O2
reactant | methyl 4-(bromomethyl)benzoate | 3.33 mmol, 763 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | potassium carbonate | 13.3 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 30 ml | O | H2O
product | (E)-4-[3-(3-Hydroxy-propenyl)-phenoxymethyl]-benzoic acid methyl ester | 954 mg, 96% | COC(C1=CC=C(C=C1)COC1=CC(=CC=C1)\C=C\CO)=O | C18H18O4
